### PR TITLE
[Merged by Bors] - feat: port Logic.Function.Iterate

### PR DESCRIPTION
**Pull request by hrmacbeth**
For review purposes: [Diff from mathport output](https://github.com/leanprover-community/mathlib4/compare/ebed2e9a663d299b963facf58eb501cf65d18bd8...hrmacbeth-logic-function-iterate)

TODO, in this PR or a later one: edit the proof of `Iterate.rec` to be computable.  See [Mario's comment](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/two.20errors/near/309414778).

### CODE REVIEW

File: Mathlib/Logic/Function/Iterate.lean [hunk 1]
```diff
@@ -0,0 +1,212 @@
...
+  rfl
+
+theorem iterate_pred_comp_of_pos {n : ℕ} (hn : 0 < n) : f^[n.pred] ∘ f = f^[n] := by
+  rw [← iterate_succ, Nat.succ_pred_eq_of_pos hn]
+
+theorem comp_iterate_pred_of_pos {n : ℕ} (hn : 0 < n) : f ∘ f^[n.pred] = f^[n] := by
+  rw [← iterate_succ', Nat.succ_pred_eq_of_pos hn]
+
+/-- A recursor for the iterate of a function. -/
+noncomputable
```
Comment (semorrison) [inline Mathlib/Logic/Function/Iterate.lean:163]:
```suggestion
-- Porting note: this was not needed in mathlib3, and should later be fixed.
noncomputable
```

**Comment by semorrison** [comment]
bors d+
